US07094801B2
2-{5-[3-(4-Carboxy-phenyl)-3-oxo-E-propenyl]-2,4-dimethoxy-phenyl}-indole-1-carboxylic acid tert-butyl ester
The title compound was prepared by condensing 2-(5-formyl-2,4-dimethoxy-phenyl)-indole-1-carboxylic acid tert-butyl ester (Ex-36A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, 8% yield, mp 182–183° C. 1H-NMR (CDCl3) δ 8.21 (d, J=8 Hz, 2H), 8.19 (d, J=13 Hz, 1H), 8.16 (d, J=7 Hz, 1H), 8.07 (d, J=8 Hz, 2H), 7.69 (s, 1H), 7.54 (d, J=7 Hz, 1H), 7.52 (d, J=13 Hz, 1H), 7.29–7.35 (m, 1H), 7.23 (d, J=7 Hz, 1H), 6.55 (s, 1H), 6.50 (s, 1H), 4.00 (s, 3H), 3.85 (s, 3H), 3.81 (s, 3H). MS m/z=528 ([M+H]+, 100%). Anal. calc. for C31H29NO7H2O: C, 68.25; H, 5.73; N, 2.56; found: C, 68.63; H, 5.62; N, 2.45.

reactant | 2-(5-formyl-2,4-dimethoxy-phenyl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(C=C(C(=C1)C=O)OC)OC | C22H23NO5
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 2-{5-[3-(4-Carboxy-phenyl)-3-oxo-E-propenyl]-2,4-dimethoxy-phenyl}-indole-1-carboxylic acid tert-butyl ester | 8% yield | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(C=C(C(=C1)\C=C\C(=O)C1=CC=C(C=C1)C(=O)O)OC)OC | C31H29NO7
